US08283354B2
A 2 M HCl solution in ether (0.16 mL, 0.32 mmol) was added to a solution of N-((R)-1-(2-(2-fluoro-6-hydroxyphenyl)-7-methylquinazolin-4-yl)pyrrolidin-3-yl)cyclopropanecarboxamide (133 mg, 0.32 mmol) in CH2Cl2 (4 mL) under an N2 atmosphere. Additional ether was then added (15 mL) and the reaction mixture was stirred for an hour. The formed precipitate was then filtered and dried to afford N-((R)-1-(2-(2-fluoro-6-hydroxyphenyl)-7-methylquinazolin-4-yl)pyrrolidin-3-yl)cyclopropanecarboxamide hydrochloride (135 mg, 95%). LC/MS: m/z 407.5 (M+H)+ at 2.07 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)). 1H NMR (400 MHz, DMSO-d6) δ 8.32 (d, J=7.6 Hz, 1H), 7.56-7.58 (m, 2H), 7.43-7.49 (m, 1H), 6.83-6.88 (m, 2H), 3.94-4.41 (m, 5H), 2.52 (s, 3H), 2.25-2.36 (m, 1H), 1.91-2.13 (m, 1H), 1.47-1.54 (m, 1H), 0.63-0.69 (m, 4H)

reactant | HCl | 2 M | Cl | ClH
reactant | ether | 0.32 mmol, 0.16 mL | CCOCC | C4H10O
reactant | N-((R)-1-(2-(2-fluoro-6-hydroxyphenyl)-7-methylquinazolin-4-yl)pyrrolidin-3-yl)cyclopropanecarboxamide | 0.32 mmol, 133 mg | FC1=C(C(=CC=C1)O)C1=NC2=CC(=CC=C2C(=N1)N1C[C@@H](CC1)NC(=O)C1CC1)C | C23H23FN4O2
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | N-((R)-1-(2-(2-fluoro-6-hydroxyphenyl)-7-methylquinazolin-4-yl)pyrrolidin-3-yl)cyclopropanecarboxamide hydrochloride | 135 mg, 95% | Cl.FC1=C(C(=CC=C1)O)C1=NC2=CC(=CC=C2C(=N1)N1C[C@@H](CC1)NC(=O)C1CC1)C | InChI=1S/C23H23FN4O2.ClH/c1-13-5-8-16-18(11-13)26-21(20-17(24)3-2-4-19(20)29)27-22(16)28-10-9-15(12-28)25-23(30)14-6-7-14;/h2-5,8,11,14-15,29H,6-7,9-10,12H2,1H3,(H,25,30);1H/t15-;/m1./s1
